Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right foot rest pain
 
Major Surgical or Invasive Procedure:
___: R femoral endarterectomy, Femoral BK popliteal artery 
bypass with vein 

 
History of Present Illness:
___ transferred from ___ with RLE ischemia. The patient 
has known PVD and is followed by Dr. ___ at ___ and, 
per his report, is scheduled to undergo "a bypass" of his RLE on 
___ (no records available at the time of
consultation). The patient states that he has been experiencing  
rest pain in his RLE for about 7 weeks and has not been able to 
bear weight on his right foot (walks with a cane at baseline). 
The pain significantly increased in severity in the last 24 
hours and he presented to the ___ for evaluation. 
Due to lack of vascular surgery coverage the patient is being
transferred to our institution. The patient also reports 
decreased sensation in his RLE and decreased motor strength that 
progressively worsened over the past week. The patient is aware 
that he needs to have a bypass of the right leg and is 
agreeable.  

 
Past Medical History:
Past Medical History:  
 DM, HTN, HLD, PVD, CAD (MI in ___  
 Past Surgical History:  
 laparoscopic cholecystectomy, carpal tunnel release b/l, b/l 
?CFA  
 endarterectomies (no records available, patient cannot provide  

 additional detail)
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: T=98.2 BP=115/55 HR=73 RR=18 O2=94% on room air 

GEN: A&O, NAD
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, nontender
Ext: Right leg with surgical incisions down the leg with intact 
staples. No erythema or drainage noted.  Right foot warm to 
touch. Wound noted to the right shin with dry eschar no signs of 
infection.  Absent light touch sensation from mid leg down
LLE sensory/motor intact. 

Pulses: R: p/d/d/d  graft palpable. L:p/d/p/d
 
Pertinent Results:
ON ADMISSION:
___ 05:00AM BLOOD WBC-14.5* RBC-3.25* Hgb-7.7* Hct-25.6* 
MCV-79* MCH-23.7* MCHC-30.1* RDW-16.4* RDWSD-47.1* Plt ___
___ 05:00AM BLOOD Neuts-79.9* Lymphs-11.2* Monos-7.2 
Eos-0.7* Baso-0.3 Im ___ AbsNeut-11.61* AbsLymp-1.62 
AbsMono-1.04* AbsEos-0.10 AbsBaso-0.05
___ 05:00AM BLOOD ___ PTT-23.1* ___
___ 05:00AM BLOOD Glucose-169* UreaN-30* Creat-1.0 Na-134 
K-3.8 Cl-99 HCO3-19* AnGap-20
___ 07:00AM BLOOD Calcium-8.7 Phos-2.7 Mg-1.9
___ 04:37PM BLOOD %HbA1c-8.5* eAG-197*

Blood Culture x2 , Routine (Final ___:    NO GROWTH. 

ON DISCHARGE:
___ 07:55AM BLOOD WBC-16.3* RBC-3.85*# Hgb-10.0*# Hct-31.3* 
MCV-81* MCH-26.0 MCHC-31.9* RDW-16.9* RDWSD-49.1* Plt ___
___ 07:55AM BLOOD Glucose-PND UreaN-PND Creat-PND Na-PND 
K-PND Cl-PND HCO3-PND
 
Brief Hospital Course:
Mr. ___ is a ___ yo male with PMH significant for DM, HTN, 
HLD, PVD, CAD (MI in ___ who presented with right foot rest 
pain. He was transferred to the ___ 
___ on ___ from ___. It was determined based on 
imaging studies that the patient would need to undergo a bypass 
in the right leg in order to improve blood flow. The patient was 
taken to the OR on ___ and underwent a Right femoral 
endarterectomy and femoral to below knee popliteal artery bypass 
with vein  For details of the procedure, please see the 
surgeon's operative note. The patient tolerated the procedure 
well without complications and was brought to the 
post-anesthesia care unit in stable condition. After a brief 
stay, the patient was transferred to the vascular surgery floor 
where he remained through the rest of the hospitalization. 

Post-operatively, he did well with no acute issues. He had a 
slight drop in his post hematocrit to 20.4. He was transfused 
two units of blood with a post transfusion hematocrit of 28.9. 
He was evaluated by ___ who recommended that he go to rehab. 

He was able to tolerate a regular diet, get out of bed and 
ambulate with assistance, and pain was controlled on oral 
medications alone. He was deemed ready for discharge, and was 
given the appropriate discharge and follow-up instructions. he 
had previously failed a voiding trial and required a foley to be 
put back in. He was sent to rehab with the foley in place and 
instructions to take it out for voiding trails on ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Diltiazem Extended-Release 325 mg PO DAILY 
3. Cilostazol 100 mg PO BID 
4. Glargine 50 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Nitroglycerin SL 0.4 mg SL ASDIR 
6. Furosemide 40 mg PO DAILY 
7. Pravastatin 40 mg PO QPM 
8. sitaGLIPtin 100 mg oral DAILY 
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Cilostazol 100 mg PO BID 
3. Diltiazem Extended-Release 325 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Glargine 50 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Nitroglycerin SL 0.4 mg SL ASDIR 
7. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4- hours Disp 
#*30 Tablet Refills:*0
8. sitaGLIPtin 100 mg oral DAILY 
9. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice per day Disp #*42 Tablet Refills:*0
10. Acetaminophen 650 mg PO Q6H:PRN pain/headache 
11. Aspirin 81 mg PO DAILY 
12. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once per day at 
night Disp #*30 Tablet Refills:*1
13. Tamsulosin 0.4 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
rest pain right foot 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,
You were admitted to ___ and 
underwent Right femoral endarterectomy and femoral to below knee 
popliteal artery bypass with vein. You have now recovered from 
surgery and are ready to be discharged. Please follow the 
instructions below to continue your recovery:

WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
• Take aspirin as instructed 
• Take the antibiotic Bactrim until your follow up appointment 
• Follow your discharge medication instructions

ACTIVITIES:
• No driving until post-op visit and you are no longer taking 
pain medications
• Unless you were told not to bear any weight on operative foot: 

• You should get up every day, get dressed and walk
• You should gradually increase your activity
• You may up and down stairs, go outside and/or ride in a car
• Increase your activities as you can tolerate- do not do too 
much right away!
• No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
• You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
• Redness that extends away from your incision
• A sudden increase in pain that is not controlled with pain 
medication
• A sudden change in the ability to move or use your leg or the 
ability to feel your leg
• Temperature greater than 100.5F for 24 hours
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 

 
Followup Instructions:
___